### PR TITLE
stylistic change of insert-model proof

### PR DESCRIPTION
**Pull request by Lingyin00**

### CODE REVIEW

File: Filrb/Internal/Model.lean [hunk 1]
```diff
@@ -265,103 +265,72 @@ lemma inorder_ins (x : α) (t : Raw α) (h : Sorted t.inorder):
   split
   · simp
   · split
-    · rw[baliL_inorder_independent]
-      simp[inorder_node]
-      simp_all only [inorder_node, List.append_assoc, List.singleton_append, LawfulOrd.compare_eq_lt]
+    · rw [baliL_inorder_independent]
+      simp [inorder_node]
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: This should also be a `simp only`.

File: Filrb/Internal/Model.lean [hunk 2]
```diff
@@ -265,103 +265,72 @@ lemma inorder_ins (x : α) (t : Raw α) (h : Sorted t.inorder):
...
       rename_i heq
       simp_all only [List.append_assoc, List.singleton_append, LawfulOrd.compare_eq_eq, inorder_node]
       subst heq
       apply sortedInsert_middle
-      · intro a ha
-        have := Sorted_append_cons_iff.mp h
-        aesop
-      · intro b hb
-        have := Sorted_append_cons_iff.mp h
+      aesop (add safe norm Sorted_append_cons_iff)
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: This is a non terminal `aesop` now right?

File: Filrb/Internal/Model.lean [hunk 3]
```diff
@@ -265,103 +265,72 @@ lemma inorder_ins (x : α) (t : Raw α) (h : Sorted t.inorder):
...
```
Comment (hargoniX) [inline Filrb/Internal/Model.lean]: This too is a non terminal `aesop`

**Review by hargoniX — CHANGES_REQUESTED** [review]

File: Filrb/Internal/Model.lean (hunk 1 above)
Comment (Lingyin00) [reply Filrb/Internal/Model.lean]: > This should also be a `simp only`.

I have changed it to simp_all only since both the hypothesis `h` and the goal need the same simp rules.

File: Filrb/Internal/Model.lean (hunk 2 above)
Comment (Lingyin00) [reply Filrb/Internal/Model.lean]: corrected

**Review by hargoniX — APPROVED** [review]
